US04409214
To a suspension of benzhydryl 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (4.5 g) in methylene chloride (30 ml) and anisole (4.6 g) was added 2,2,2-trifluoroacetic acid (16.8 g) under ice-cooling, and the solution was stirred at ambient temperature for an hour. After evaporation of the reaction mixture, thereto were added water and ethyl acetate, followed by adjusting to pH 7 with 1 N aqueous solution of sodium hydroxide. To the separated aqueous layer were added ethyl acetate and tetrahydrofuran, followed by adjusting to pH 2 with 10% hydrochloric acid. After the organic layer was separated out, it was washed with an aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether to obtain 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (1.5 g).

reactant | benzhydryl 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 4.5 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N4O6S3
reactant | anisole | 4.6 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 2,2,2-trifluoroacetic acid | 16.8 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.5 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C15H16N4O6S3
